US08629270B2
2-[2-[(4aR,7aR)-2-Amino-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-6-methyl-pyrimidin-4-yl]propan-2-ol hydrochloride
N-[(4aR,7aR)-6-[5-Fluoro-4-(1-hydroxy-1-methyl-ethyl)-6-methyl-pyrimidin-2-yl]-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (33 mg, 0.064 mmol) is dissolved in ethanol (2 mL). To this solution is added pyridine (0.052 mL, 0.6 mmol) and O-methylhydroxylamine hydrochloride (55 mg, 0.6 mmol). The reaction is warmed to 70° C. for 4 hours. The reaction is cooled to room temperature and stirred overnight (˜16 hrs). The mixture is concentrated to give the crude product which is purified via silica gel chromatography using a 0-10% (7 N NH3 in MeOH)/DCM to give the pure freebase. The freebase is dissolved in DCM (2 mL) and treated with 4 M HCl in dioxane (0.3 mL, 1.2 mmol). The mixture is concentrated to give the title compound as a white solid (18 mg, 0.04 mmol). ES/MS (m/z): 409 (M+H). [α]D20=−6.0° (C=1.0, MeOH).

reactant | N-[(4aR,7aR)-6-[5-Fluoro-4-(1-hydroxy-1-methyl-ethyl)-6-methyl-pyrimidin-2-yl]-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 0.064 mmol, 33 mg | FC=1C(=NC(=NC1C)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=CC=NS1)C(C)(C)O | C24H25FN6O2S2
reactant | pyridine | 0.6 mmol, 0.052 mL | N1=CC=CC=C1 | C5H5N
reactant | O-methylhydroxylamine hydrochloride | 0.6 mmol, 55 mg | Cl.CON
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1.2 mmol, 0.3 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-[(4aR,7aR)-2-Amino-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-6-yl]-5-fluoro-6-methyl-pyrimidin-4-yl]propan-2-ol hydrochloride | 0.04 mmol, 18 mg | Cl.NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC(=C(C(=N2)C(C)(C)O)F)C)C2=CC=NS2 | InChI=1S/C17H21FN6OS2.ClH/c1-9-12(18)13(16(2,3)25)22-15(21-9)24-6-10-7-26-14(19)23-17(10,8-24)11-4-5-20-27-11;/h4-5,10,25H,6-8H2,1-3H3,(H2,19,23);1H/t10-,17-;/m0./s1
